US08486939B2
A mixture of 1-[4-chloro-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-2-(difluoromethyl)-1H-benzimidazole (0.183 g, 0.5 mmol), 3-pyridylboronic acid (92 mg, 0.75 mmol), PdCl2(dppf) (28 mg), and aq. Na2CO3 (2M, 4 mL) in dioxane (20 mL) was heated under reflux under nitrogen for 1 hr. After cooling, the mixture was diluted with water, extracted with CH2Cl2, and dried. Chromatography on alumina, eluting with CH2Cl2, gave 0.13 g (64% yield) of 2-(difluoromethyl)-1-[4-(4-morpholinyl)-6-(3-pyridinyl)-1,3,5-triazin-2-yl]-1H-benzimidazole: mp (MeOH) 199-201° C.; 1H NMR (DMSO-d6) δ 9.59 (d, J=1.6 Hz, 1H), 8.85 (dd, J=4.8, 1.7 Hz, 1H), 8.75 (td, J=8.0, 1.9 Hz, 1H), 8.50 (d, J=8.2 Hz, 1H), 7.90 (d, J=7.9 Hz, 1H), 7.86 (t, JHF=52.6 Hz, 1H), 7.65 (ddd, J=8.0, 4.8, 0.7 Hz, 1H), 7.59 (dt, J=7.8, 1.1 Hz, 1H), 7.49 (dt, J=7.6, 1.1 Hz, 1H), 4.09 (m, 2H), 3.94 (m, 2H), 3.79 (m, 4H); Anal. Calcd. for C20H17F2N7O: C, 58.7; H, 4.2; N, 23.95. Found: C, 58.45; H, 4.1; N, 24.2%.

reactant | 1-[4-chloro-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-2-(difluoromethyl)-1H-benzimidazole | 0.5 mmol, 0.183 g | ClC1=NC(=NC(=N1)N1CCOCC1)N1C(=NC2=C1C=CC=C2)C(F)F | C15H13ClF2N6O
reactant | 3-pyridylboronic acid | 0.75 mmol, 92 mg | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | Na2CO3 | 2M, 4 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
catalyst | PdCl2(dppf) | 28 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-(difluoromethyl)-1-[4-(4-morpholinyl)-6-(3-pyridinyl)-1,3,5-triazin-2-yl]-1H-benzimidazole | 0.13 g, 64% yield | FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCOCC1)C=1C=NC=CC1)C=CC=C2)F | C20H17F2N7O
